US07442839B2
ii) 1-(Cyclopentylthio)-3-iodobenzene
To a solution of 1-(cyclopentylthio)-3-bromobenzene (3.6 g) in dry THF (40 ml) at −60° under nitrogen was added n-butyl lithium (10 ml, 1.6M in hexanes). After stirring for 15 min a solution of iodine (4.3 g) in dry THF (30 ml) was added dropwise and the solution was allowed to warm to 0°. Wet THF was added to the brown solution, followed by aqueous sodium sulphite. The resulting colourless solution was extracted with diethyl ether and the combined organic extracts were washed with water, brine and dried (Na2SO4). The solvent was evaporated and the residue was purified by column chromatography on silica using cydohexane as eluant. This gave the title compound (1.8 g). LCMS RT=4. 1 min

reactant | 1-(cyclopentylthio)-3-bromobenzene | 3.6 g | C1(CCCC1)SC1=CC(=CC=C1)Br | C11H13BrS
reactant | n-butyl lithium | 1.6M, 10 ml | C(CCC)[Li]
reactant | iodine | 4.3 g | II | I2
reactant | sodium sulphite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 1-(Cyclopentylthio)-3-iodobenzene | 1.8 g | C1(CCCC1)SC1=CC(=CC=C1)I | C11H13IS
